US06469003B1
To a suspension (5 ml) of 6-acetyl-4-(aminothioxomethyl)-2-(3-chlorophenyl)-5-methyl-3(2H)-pyridazinone (200 mg) in ethanol (5 ml) was added a 50% aqueous solution of chloroacetoaldehyde, followed by heating under reflux for 10 hours. After cooling on standing, the reaction mixture was extracted with ethyl acetate. After washing with a saturated sodium hydrogen carbonate aqueous solution and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2), and the resulting crude crystals was washed with hexane to obtain 6-acetyl-2-(3-chlorophenyl)-5-methyl-4-(1,3-thiazol-2-yl)-3(2H)-pyridazinone (90 mg) (Compound No. 1-155).

reactant | 6-acetyl-4-(aminothioxomethyl)-2-(3-chlorophenyl)-5-methyl-3(2H)-pyridazinone | 5 ml, 200 mg | C(C)(=O)C=1C(=C(C(N(N1)C1=CC(=CC=C1)Cl)=O)C(=S)N)C | C14H12ClN3O2S
reactant | chloroacetoaldehyde | ClCC=O | C2H3ClO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-acetyl-2-(3-chlorophenyl)-5-methyl-4-(1,3-thiazol-2-yl)-3(2H)-pyridazinone | 90 mg | C(C)(=O)C=1C(=C(C(N(N1)C1=CC(=CC=C1)Cl)=O)C=1SC=CN1)C | C16H12ClN3O2S
